US05439917
2,3-Dimethyl-6-methylthio-7-phenethylpyrrolo[2,3-b]pyridine.
A refluxing solution of 2,3-dimethyl-6-mehylthiopyrrolo[2,3-b]pyridine (100 mg, 0.5 mmol) in 5 ml CH3CN was treated with five portions of phenethyl bromide (85 μl, 1.2 mmol), one each 24 h. The solvent was evporated and the residue chromatographed (silica, CH2Cl2 saturated with NH3 /diethyl ether/petroleum ether; 5/2/3) affording 20 mg (13%) pure title compound.

reactant | 2,3-dimethyl-6-mehylthiopyrrolo[2,3-b]pyridine | 0.5 mmol, 100 mg | CC1=C(C=2C(=NC(=CC2)SC)N1)C | C10H12N2S
reactant | phenethyl bromide | 1.2 mmol, 85 μl | C(CC1=CC=CC=C1)Br | C8H9Br
solvent | CH3CN | 5 ml | CC#N | C2H3N
product | 2,3-Dimethyl-6-methylthio-7-phenethylpyrrolo[2,3-b]pyridine | 20 mg, 13% | CC1=C(C=2C(N(C(=CC2)SC)CCC2=CC=CC=C2)=N1)C | C18H20N2S
